US05442055
A mixture of 10 ml of tetrahydrofuran and a small amount of iodine is added to 437 mg of magnesium piece at a room temperature and 0.75 g of 1,2-dibromoethane are added dropwise thereto with stirring. When the exothermic reaction starts and the mixture begins to reflux, a solution of 1.51 g of 1,2-dibromoethane in 3 ml of tetrahydrofuran is added dropwise thereto. Then, the mixture is refluxed for 30 minutes. The mixture is cooled to a temperature of 5° C. and to this cooled liquid is added dropwise a mixture of 1.15 g of (3R, 4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-azetidinone and 2.11 g of 3-(2-bromopropionyl)-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one in 5 ml of tetrahydrofuran. Then, the mixture is stirred at 10° C. for one hour. 60 ml of aqueous saturated ammonium hydrochloride are added thereto and the mixture is extracted with ethyl acetate. The extract is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate =6:1-3:1) to obtain 1.61 g of 3-{(2R)-2-[(3S, 4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one.

reactant | iodine | II | I2
reactant | magnesium | 437 mg | [Mg] | Mg
reactant | 1,2-dibromoethane | 0.75 g | BrCCBr | C2H4Br2
reactant | 1,2-dibromoethane | 1.51 g | BrCCBr | C2H4Br2
reactant | (3R, 4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-azetidinone | 1.15 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | 3-(2-bromopropionyl)-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one | 2.11 g | BrC(C(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O)C | C16H18BrNO3
reactant | ammonium hydrochloride | 60 ml | Cl.[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-{(2R)-2-[(3S, 4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one | 1.61 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O)C)=O | C27H40N2O5Si
